US04072498
Using the procedure for Example 1, but substituting 2-bromo-N,N-dimethylbutyramide for 2-chloro-N,N-dimethylpropionamide and 3-(o-chlorophenyl)-4-ethylpyrazole for 4-methyl-3-phenylpyrazole, there was obtained 3-(o-chlorophenyl)-α,4-diethyl-N,N-dimethylpyrazole-1-acetamide, m.p. 60°-63° C.

reactant | 2-chloro-N,N-dimethylpropionamide | ClC(C(=O)N(C)C)C | C5H10ClNO
reactant | 3-(o-chlorophenyl)-4-ethylpyrazole | ClC1=C(C=CC=C1)C1=NNC=C1CC | C11H11ClN2
reactant | 4-methyl-3-phenylpyrazole | CC=1C(=NNC1)C1=CC=CC=C1 | C10H10N2
product | 3-(o-chlorophenyl)-α,4-diethyl-N,N-dimethylpyrazole-1-acetamide | ClC1=C(C=CC=C1)C1=NN(C=C1CC)C(C(=O)N(C)C)CC | C17H22ClN3O
